Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1].[O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11],-4.75348262809
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-4.08164007
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.06219870847
[C:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[C:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][H:8].[H:9],4.10847741236
[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-0.0889574405401
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[O:11][H:12]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-5.3928653708
[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],1.33377181557
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14],-0.7226283706800001
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],2.10700297133
[H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.03019422226
[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])([H:7])[C@:8]1([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],2.33629162
[C:1].[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.39026019697
[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([H:3])([H:4])=[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1],2.23781914131
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[O:9][H:10]>>[C:4]([H:5])[O:6][C:7]([H:8])[O:9][H:10].[H:1][C:2]#[C:3],5.766920688169999
[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.83175695294
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8],3.4830271778099995
[C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.48226275997
[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3](=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[H:10])\[C:11]([H:12])([H:13])[H:14].[H:1][O:2],5.8641900831
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[C:7]([H:8])#[C:9][H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],1.07785245787
[C:7]([H:8])([O:9][H:10])=[C:11]([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-1.03354485036
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.455204015730001
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11]>>[C:6]([H:7])([H:8])[O:9][C:10][H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.34287905734
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[H:15],4.4396462499
[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.8599592591900014
[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-4.91560406443
[O:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[C:4]([H:5])[H:6].[O:1][C:2][C:3],7.47526565146
[C:3]([H:4])([H:5])=[C:6]([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-2.72926230189
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],0.55213609148
